US09233098B2
2. Preparation of 2-[3-[4-(4-chlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetic acid
Into a dry reaction vessel, ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetate (580 mg, 1.26 mmol), lithium hydroxide monohydrate (159 mg, 3.79 mmol), 10 mL tetrahydrofuran, 10 mL methanol, 10 mL water were weighed, and stirred at room temperature for 1 h. The reaction was monitored to be complete by TLC. The solvent was rotate evaporated. It was adjusted to pH=3-4 with 2 N HCl solution. It was filtered, and the filter cake was washed with 20 mL methanol to obtain the product as a white solid 523 mg, at a yield of 95.9%.

reactant | ethyl 2-[3-[4-(4-chlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetate | 1.26 mmol, 580 mg | ClC1=CC=C(C(=O)NC2=CC=C(CC3=C(N(C4=CC=CC=C34)CC(=O)OCC)C)C=C2)C=C1 | C27H25ClN2O3
reactant | lithium hydroxide monohydrate | 3.79 mmol, 159 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-[3-[4-(4-chlorobenzamido)benzyl]-2-methyl-1H-indol-1-yl]acetic acid | 523 mg, yield of 95.9% | ClC1=CC=C(C(=O)NC2=CC=C(CC3=C(N(C4=CC=CC=C34)CC(=O)O)C)C=C2)C=C1 | C25H21ClN2O3
